US04946787
DOPG/DOPC SUV's were prepared by dissolving 40 mg DOPG and 60 mg DOPC in chloroform and drying off the solvent under a stream of nitrogen gas. This dried film was placed under vacuum overnight to remove traces of solvent. The film was then suspended in 2 ml water with vigorous shaking and sonicated in a bath type sonicator for 30 minutes until clear, producing DOPG/DOPC SUV's at a concentration of 50 mg/ml.

reactant | DOPG | 40 mg | CCCCCCCCC=CCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCC=CCCCCCCCC | C42H79O10P
reactant | DOPC | 60 mg | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | C44H84NO8P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | DOPG DOPC | CCCCCCCCC=CCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCC=CCCCCCCCC.CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | InChI=1S/C44H84NO8P.C42H79O10P/c1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-43(46)50-40-42(41-52-54(48,49)51-39-38-45(3,4)5)53-44(47)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-41(45)49-37-40(38-51-53(47,48)50-36-39(44)35-43)52-42(46)34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2/h20-23,42H,6-19,24-41H2,1-5H3;17-20,39-40,43-44H,3-16,21-38H2,1-2H3,(H,47,48)/b22-20-,23-21-;/t42-;/m1./s1
